US07893267B2
4.64 g (20 mmol) of 3,5-difluoro-2-nitro-benzoic acid ethyl ester in DMF and 2.1 g (22 mmol) of ammonium carbonate was heated at 60° C. for 6 h. The reaction mixture was treated with water. The resulting solid was collected by filtration and washed with water to produce 3.4 g (15.0 mmol, 75%) of 3-amino-5-fluoro-2-nitro-benzoic acid ethyl ester. LCMS: 229 (M+1)+.

reactant | 3,5-difluoro-2-nitro-benzoic acid ethyl ester | 20 mmol, 4.64 g | C(C)OC(C1=C(C(=CC(=C1)F)F)[N+](=O)[O-])=O | C9H7F2NO4
reactant | ammonium carbonate | 22 mmol, 2.1 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-amino-5-fluoro-2-nitro-benzoic acid ethyl ester | 15.0 mmol, 3.4 g, 75% | C(C)OC(C1=C(C(=CC(=C1)F)N)[N+](=O)[O-])=O | C9H9FN2O4
